US05444080
A solution of ethyl 3-[2-n-butyl-1-{(trimethylsilyl)ethoxymethyl}1H-imidazol-5-yl]propanoate (0.992 g, 2.8 mmol) in ethanol (10 mL) was treated with 5N aqueous hydrochloric acid solution (20 mL), and then the reaction mixture was heated at 60° C. for 3.5 hours. The ethanol was evaporated, and the cooled aqueous solution was basified to pH 8 with 10% aqueous sodium hydroxide solution. The product was extracted into ethyl acetate, and the organic extracts were washed with brine, dried with anhydrous sodium sulfate and concentrated to give 0.314 g (50%) of ethyl 3-(2-n-butyl-imidazol-4-yl)-propanoate. This was dissolved in methanol (15 mL) and di-tert-butyldicarbonate (2.44 g, 11.2 mmol) and triethylamine (1.56 mL, 11.2 mmol) were added. The mixture was stirred for 18 hours at ambient temperature, the solvent was evaporated, and the residue was dissolved in hexane and applied to a flash column packed with silica gel. Elution with 8:2 hexane/ethyl acetate afforded 0.285 g (31%) of ethyl 3-[2-n-butyl-1-t-butoxycarbonyl-1H-imidazol-4-yl]propanoate as an oil.

reactant | ethyl 3-[2-n-butyl-1-{(trimethylsilyl)ethoxymethyl}1H-imidazol-5-yl]propanoate | 2.8 mmol, 0.992 g | C(CCC)C=1N(C(=CN1)CCC(=O)OCC)COCC[Si](C)(C)C | C18H34N2O3Si
reactant | hydrochloric acid | 5N, 20 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 3-(2-n-butyl-imidazol-4-yl)-propanoate | 0.314 g, 50% | C(CCC)C=1NC=C(N1)CCC(=O)OCC | C12H20N2O2
